US08080568B1
To a stirred solution of 4-(bromomethyl)-3-nitrobenzonitrile (5.12 g, 21.57 mmol) and pyrrolidine (1.84 g, 25.88 mmol) in CH2Cl2 (72 mL) was added triethylamine (6.54 g, 64.71 mmol) dropwise at 0° C. The mixture was stirred at room temperature for 1.5 h and evaporated to dryness under reduced pressure. The residue was diluted with water (30 mL) and extracted with CH2Cl2 (3×100 mL). The CH2Cl2 solution was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of EtOAc and hexane as eluent to give 3-nitro-4-(pyrrolidin-1-ylmethyl)benzonitrile (2.24 g, 45%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 8.16 (d, 1 H, J=1.6 Hz), 7.94 (br d, 1H, J=8.0 Hz), 7.83 (dd, 1H, J=8.0, 1.6 Hz), 3.99 (s, 2H), 2.54 (br s, 4H), 1.79 (m, 4H).

reactant | 4-(bromomethyl)-3-nitrobenzonitrile | 21.57 mmol, 5.12 g | BrCC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C8H5BrN2O2
reactant | pyrrolidine | 25.88 mmol, 1.84 g | N1CCCC1 | C4H9N
reactant | triethylamine | 64.71 mmol, 6.54 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 72 mL | C(Cl)Cl | CH2Cl2
product | 3-nitro-4-(pyrrolidin-1-ylmethyl)benzonitrile | 2.24 g, 45% | [N+](=O)([O-])C=1C=C(C#N)C=CC1CN1CCCC1 | C12H13N3O2
